US09163021B2
2-(3-Cyclopropyl-pyrazol-1-yl)-N-{5-[7-fluoro-1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-pyrrolo[3,2-c]pyridine-3-carbonyl]-pyridin-3-yl}-acetamide
To a solution of N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(3-cyclopropyl-pyrazol-1-yl)-acetamide (Preparation 6, 40 mg, 67 μmol) in THF (5 mL) 4M dioxane-HCl (1 mL) was added and stirred at room temperature for 18 hours. The reaction was evaporated in vacuo and triturated with pentane-ether to afford the title compound as an off white solid in 92% yield, 30 mg.

reactant | N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(3-cyclopropyl-pyrazol-1-yl)-acetamide | 67 μmol, 40 mg | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)C(=O)C=2C=C(C=NC2)NC(CN2N=C(C=C2)C2CC2)=O)(C)C | C31H39FN6O3Si
solvent | THF | 4M, 5 mL | C1CCOC1 | C4H8O
product | 2-(3-Cyclopropyl-pyrazol-1-yl)-N-{5-[7-fluoro-1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-pyrrolo[3,2-c]pyridine-3-carbonyl]-pyridin-3-yl}-acetamide | 92% yield | C1(CC1)C1=NN(C=C1)CC(=O)NC=1C=NC=C(C1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)(C)C | C25H25FN6O3
